US07419995B2
4-Fluoro-3-nitrobenzoic acid (0.27 mol), an aniline (0.32 mol) and NMM (32.5 mL) in 2-methoxyethanol (750 mL) were stirred at reflux under argon for 24 h. The suspension was concentrated under reduced pressure and the residue was sonicated with 1M HCl (aq) over 1.5 h. The resultant orange solid was isolated by filtration, washed with water dried, then sonicated with t-butyl methyl ether, isolated by filtration and dried. Where necessary, the product was further purified by recrystallisation to yield the 4-anilino-3-nitrobenzoic acid: e.g. 4-(3-bromophenyl amino)-3-nitrobenzoic acid. (In some cases, for example with heteroaromatic anilines, NMN may be omitted from the reaction mixture).

reactant | 4-Fluoro-3-nitrobenzoic acid | 0.27 mol | FC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H4FNO4
reactant | aniline | 0.32 mol | NC1=CC=CC=C1 | C6H7N
reactant | NMM | 32.5 mL | CN1CCOCC1 | C5H11NO
solvent | 2-methoxyethanol | 750 mL | COCCO | C3H8O2
product | 4-anilino-3-nitrobenzoic acid | N(C1=CC=CC=C1)C1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C13H10N2O4
